US06127386
181a. 5-Allyl-3-(1-BOC-2-(S)-azetidinylmethoxy)pyridine
3-(1-BOC-2-(S)-azetidinylmethoxy)-5-bromopyridine (0.95 g, 2.77 mmol) in toluene (10 mL) was added tetrakis(triphenylphosphine) palladium (100 mg) and allyltributyltin (1.72 mL, 5.54 mmol). The mixture was stirred and refluxed for two days. Solvent was evaporated and the residue was chromatographed (silica gel; hexane/EtOAc, 5:1 to 1:1) to afford an oil (250 mg, 30%): 1H NMR (CDCl3, 300 MHz) δ 1.42 (s, 9H), 2.22-2.42 (m, 2H), 3.37 (d, 2H, J=7.0 Hz), 3.87-3.92 (m, 2H), 4.16 (m, 1H), 4.30 (m, 1H), 4.50 (m, 1H), 5.07-5.17 (m, 2H), 5.9 (m, 1H), 7.07 (m, 1H), 8.08 (m, 1H), 8.19 (d, 1H, J=3.0 Hz); MS (CI/NH3) m/z 305 (M+H)+.

reactant | 3-(1-BOC-2-(S)-azetidinylmethoxy)-5-bromopyridine | 2.77 mmol, 0.95 g | C(=O)(OC(C)(C)C)N1[C@@H](CC1)COC=1C=NC=C(C1)Br | C14H19BrN2O3
reactant | allyltributyltin | 5.54 mmol, 1.72 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium | 100 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-Allyl-3-(1-BOC-2-(S)-azetidinylmethoxy)pyridine | 250 mg, 30% | C(C=C)C=1C=C(C=NC1)OC[C@H]1N(CC1)C(=O)OC(C)(C)C | C17H24N2O3
